US04011334
A mixture of 40.5 g (0.2 mole) of 1-dodecanethiol (laurylmercaptan) in 19.2 g (0.4 mole) of sodium hydride (50% in oil) in 1 liter of toluene is refluxed with stirring for 1 hour then cooled to room temperature. To the mixture 32.5 g (0.2 mole) of 5-chloro-2-thiophenecarboxylic acid is added and the mixture is refluxed with stirring for 24 hours after which the mixture is cooled to room temperature and acidified with 5% aqueous hydrochloric acid. Water is added, and the toluene layer is separated, dried over sodium sulfate and evaporated to give 5-(dodecylthio)-2-thiophenecarboxylic acid.

reactant | 1-dodecanethiol | 0.2 mole, 40.5 g | C(CCCCCCCCCCC)S | C12H26S
reactant | sodium hydride | 0.4 mole, 19.2 g | [H-].[Na+]
reactant | 5-chloro-2-thiophenecarboxylic acid | 0.2 mole, 32.5 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 5-(dodecylthio)-2-thiophenecarboxylic acid | C(CCCCCCCCCCC)SC1=CC=C(S1)C(=O)O | C17H28O2S2
